US06936612B2
6-Bromo-8-cyclopentyl-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one (0.4 g, 1.08 mmol) and N5,N5-Bis-(2-methoxy-ethyl)-pyridine-2,5-diamine (0.5 g, 2.2 mmol) were combined in toluene (3.5 mL) and heated to 110° C. After 5 h the reaction mixture was allowed to cool and the crude product was directly chromatographed on silica gel eluting with a gradient of 25% to 100% ethyl acetate in hexanes to provide 2-{5-[bis-(2-methoxy-ethyl)-amino]-pyridin-2-ylamino}-6-bromo-8-cyclopentyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one (0.49 g, 85%) as an orange gum. mp 94-95° C. MS (APCI); M++1: Calc'd, 530.2. Found 530.1. Anal. Calc'd for C24H32N6O3Br, 0.13H2O: C, 54.00; H, 5.90; N, 15.74. Found; C, 53.61; H, 5.68; N, 15.60.

reactant | 6-Bromo-8-cyclopentyl-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 1.08 mmol, 0.4 g | BrC1=C(C2=C(N=C(N=C2)S(=O)C)N(C1=O)C1CCCC1)C | C14H16BrN3O2S
reactant | N5,N5-Bis-(2-methoxy-ethyl)-pyridine-2,5-diamine | 2.2 mmol, 0.5 g | COCCN(C=1C=CC(=NC1)N)CCOC | C11H19N3O2
solvent | toluene | 3.5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-{5-[bis-(2-methoxy-ethyl)-amino]-pyridin-2-ylamino}-6-bromo-8-cyclopentyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.49 g, 85% | COCCN(C=1C=CC(=NC1)NC=1N=CC2=C(N1)N(C(C(=C2C)Br)=O)C2CCCC2)CCOC | C24H31BrN6O3
